US06482478B1
290 ml of a 1.6 molar solution of butyllithium in hexane are added dropwise at −70° C. to a solution of 112 g of 2,6-dibromofluorobenzene [1435-54-7] in 1000 ml of diethyl ether. After the mixture has been kept at the same temperature for 2 hours, 60 ml of trimethyl borate are added, and the mixture is stirred at this temperature for 12 hours. After the mixture has been slowly warmed to room temperature, 300 ml of water are added, and the pH is adjusted to 1 by addition of hydrochloric acid. The organic phase is separated off, the aqueous phase is extracted twice with 100 ml of ether each time, and the combined organic phases are dried under reduced pressure, giving 91 g of 3-bromo-2-fluorophenylboronic acid (mixed with its cyclic anhydride) as a brown solid; 1H-NMR (DMSO-d6): 7.1-7.7 (m) ppm, 19F-NMR (DMSO-d6): −99 ppm.

reactant | butyllithium | C(CCC)[Li]
reactant | 2,6-dibromofluorobenzene | 112 g | BrC1=C(C(=CC=C1)Br)F | C6H3Br2F
reactant | trimethyl borate | 60 ml | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 1000 ml | C(C)OCC | C4H10O
solvent | water | 300 ml | O | H2O
product | 3-bromo-2-fluorophenylboronic acid | 91 g | BrC=1C(=C(C=CC1)B(O)O)F | C6H5BBrFO2
